US07018988B2
(2S,4EZ)-4-[(allyloxy)imino]-1-(methoxyacetyl)-N-(6-quinolinyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, methoxyacetyl chloride, and 6-quinolinamine the title compound was obtained in 71% purity by LC/MS. MS(ESI+): m/z=383.0.

reactant | (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | 6-quinolinamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
product | (2S,4EZ)-4-[(allyloxy)imino]-1-(methoxyacetyl)-N-(6-quinolinyl)-2-pyrrolidinecarboxamide | C(C=C)ON=C1C[C@H](N(C1)C(COC)=O)C(=O)NC=1C=C2C=CC=NC2=CC1 | C20H22N4O4
